US07851468B2
5-Amino-1-cyclopentyl-1H-pyrazole-4-carbonitrile
Alternate Synthesis of 3: Cyclopentylhydrazine hydrochloride1 (1.08 g, 10 mmol) was dissolved in 100 mL anhydrous ethanol. Sodium methoxide (540 mg, 10 mmol) was added in one portion and the reaction mixture was stirred for ten minutes. Ethoxymethylenemalononitrile (Acros, 1.22 g, 10 mmol) was then added in small portions over several minutes. The reaction mixture was heated at 70° C. under argon overnight. The reaction mixture was concentrated and subjected to flash chromatography on silica gel (stepwise elution: dichloromethane followed by 1:1 hexane: ethyl acetate) to afford 600 mg (34%) of compound 3—identical in all respects with the material obtained above.

reactant | Cyclopentylhydrazine | 10 mmol, 1.08 g | C1(CCCC1)NN | C5H12N2
reactant | Sodium methoxide | 10 mmol, 540 mg | C[O-].[Na+]
reactant | Ethoxymethylenemalononitrile | 10 mmol, 1.22 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Amino-1-cyclopentyl-1H-pyrazole-4-carbonitrile | 600 mg, 34% | NC1=C(C=NN1C1CCCC1)C#N | C9H12N4
